.include TSMC_180nm.txt

.param LAMBDA=0.09u
.param width_N=20*LAMBDA
.param width_P=2*width_N
.global gnd vdd
.option scale=0.09u

.param t_setup_hl=(3-0.024)*1e-09
.param t_setup_lh=(5+0.024)*1e-09 
*tsthl - tphl increases a lot; tstlh- voltage drop at ouput after this

.param t_hold_hl=(3+0.033)*1e-09
.param t_hold_lh=(5-0.02)*1e-09 
*thhl- tphl increases a lot

Vdd vdd gnd 1.8
Vin_A A gnd pwl(0 0V 0.5ns 0V 0.5ns 1.8V 2ns 1.8V 2ns 0V 4ns 0V 4ns 1.8V)
Vin_C C gnd pwl(0 0V 0.5ns 0V 0.5ns 1.8V {t_setup_hl} 1.8V {t_setup_hl} 0V {t_setup_lh} 0V {t_setup_lh} 1.8V)
Vin_E E gnd pwl(0 0V 0.5ns 0V 0.5ns 1.8V 2ns 1.8V 2ns 0V {t_hold_hl} 0V {t_hold_hl} 1.8V {t_hold_lh} 1.8V {t_hold_lh} 0V)
Vin_clk_50 clk_50 gnd PULSE(1.8 0 0 50ps 50ps 1ns 2ns 0)
Vin_clk_0 clk_0 gnd PULSE(1.8 0 0 0ps 0ps 1ns 2ns 0)

.subckt dff in out clk vdd gnd S=1 
M1000 out a_64_49# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=800 ps=360
M1001 out a_64_49# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=400 ps=200
M1002 gnd clk a_40_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=120 ps=52
M1003 a_64_49# a_33_9# vdd w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1004 a_16_9# clk a_16_49# w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=240 ps=92
M1005 vdd clk a_33_9# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=200 ps=90
M1006 a_64_9# a_33_9# gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1007 a_16_9# in gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1008 a_16_49# in vdd w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 a_40_9# a_16_9# a_33_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1010 a_64_49# clk a_64_9# Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
C0 clk vdd 0.13fF
C1 a_33_9# w_3_39# 0.21fF
C2 a_16_9# w_3_39# 0.14fF
C3 a_33_9# a_16_9# 0.17fF
C4 in vdd 0.13fF
C5 clk w_3_39# 0.30fF
C6 a_33_9# clk 0.11fF
C7 gnd a_64_49# 0.09fF
C8 a_16_9# clk 0.05fF
C9 gnd out 0.24fF
C10 vdd a_64_49# 0.45fF
C11 in w_3_39# 0.12fF
C12 inverter_0/w_0_n60# vdd 0.14fF
C13 out vdd 0.45fF
C14 a_33_9# gnd 0.03fF
C15 vdd w_3_39# 0.39fF
C16 a_33_9# vdd 0.45fF
C17 gnd a_16_9# 0.24fF
C18 inverter_0/w_0_n60# a_64_49# 0.09fF
C19 out a_64_49# 0.05fF
C20 a_16_9# vdd 0.03fF
C21 in clk 0.12fF
C22 inverter_0/w_0_n60# out 0.08fF
C23 a_64_49# w_3_39# 0.08fF
C24 gnd clk 0.39fF
C25 gnd Gnd 0.53fF
C26 a_16_9# Gnd 0.20fF
C27 a_33_9# Gnd 0.18fF
C28 w_3_39# Gnd 4.34fF
C29 out Gnd 0.10fF
C30 a_64_49# Gnd 0.25fF
C31 inverter_0/w_0_n60# Gnd 1.51fF
.ends dff

.subckt inv in out vdd gnd S=1
M1000 out in vdd w_0_n60# CMOSP w=50 l=2
+  ad=250 pd=110 as=250 ps=110
M1001 out in gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
C0 gnd out 0.24fF
C1 out w_0_n60# 0.09fF
C2 vdd w_0_n60# 0.15fF
C3 gnd in 0.05fF
C4 in w_0_n60# 0.09fF
C5 out vdd 0.55fF
C6 out in 0.05fF
C7 gnd Gnd 0.15fF
C8 out Gnd 0.08fF
C9 vdd Gnd 0.03fF
C10 in Gnd 0.15fF
C11 w_0_n60# Gnd 1.76fF
.ends inv

x1 A B clk_50 vdd gnd dff
x2 B nc1 vdd gnd inv

x3 C D clk_0 vdd gnd dff
x4 D nc2 vdd gnd inv

x5 E F clk_0 vdd gnd dff
x6 F nc3 vdd gnd inv

.tran 0.1ps 8ns

.measure tran tpcq_lh
+TRIG v(clk_50) VAL=0.9 RISE=3 
+TARG v(B) VAL=0.9 RISE=2
.measure tran tpcq_hl
+TRIG v(clk_50) VAL=0.9 RISE=2 
+TARG v(B) VAL=0.9 FALL=1
.measure tran tpcq param = (tpcq_hl + tpcq_lh)/2

.control
run
set curplottitle="Hrishikesh-2024122006"
*plot v(A) 2+v(B) 4+v(clk_50)
*plot v(C) 2+v(D) 4+v(clk_0)
plot v(E) 2+v(F) 4+v(clk_0)
set hcopypscolor = 1

.endc

*tpcq_lh             =  1.002930e-10 targ=  5.175293e-09 trig=  5.075000e-09
*tpcq_hl             =  1.513846e-10 targ=  3.226385e-09 trig=  3.075000e-09
*tpcq                =  1.25839e-10

*thold - 32ps
*tsetup - 24ps